US04705801
29.0 g of N-acetyl-4-(2,3-dichlorophenyl)-3-trifluoromethylpyrrole are dissolved in 500 ml of diethyl ether. This solution is subsequently cooled to 0° C., and to it are added portionwise 13.7 g of lithium aluminium hydride. The mixture is afterwards stirred for 1 hour, and there are then added dropwise at 5° C. 55 ml of 4% sodium hydroxide solution, in the course of which elementary hydrogen is given off, and the mixture is subsequently stirred for a further hour at room temperature. The mixture is then filtered; the filtrate is dried over magnesium sulfate, again filtered, and concentrated by evaporation. The resulting oil is distilled at 150°/8×10-5 mbar. By covering it with hexane, there is obtained from the distillate 3-trifluoromethyl-4-(2,3-dichlorophenyl)pyrrole in the form of colourless crystals, m.p. 63°-65° C.

reactant | N-acetyl-4-(2,3-dichlorophenyl)-3-trifluoromethylpyrrole | 29.0 g | C(C)(=O)N1C=C(C(=C1)C1=C(C(=CC=C1)Cl)Cl)C(F)(F)F | C13H8Cl2F3NO
reactant | lithium aluminium hydride | 13.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 55 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | 3-trifluoromethyl-4-(2,3-dichlorophenyl)pyrrole | FC(C1=CNC=C1C1=C(C(=CC=C1)Cl)Cl)(F)F | C11H6Cl2F3N
